US06150404
1,2,4-trichlorophenyl-3-(2-propynyloxy) benzene (TCPB) and 1-(2-propynyloxy)methylenedioxyphenyl ether (MDPPE) were synthesized by the method of F. Albericio et al., "Preparation and Application of the 5-(4-(9-Fluorenylmethyloxy carbonyl)-Aminomethyl-3,5-Dimethoxyphenoxy)-Valeric Acid Handle for the Solid Phase Synthesis of C-Terminal Peptide Amides under Mild Conditions," J. Org. Chem. vol. 55, pp. 3730-3743 (1990) (FIG. 2). A mixture of 2,3,6-trichlorophenol or methylenedioxyphenol (0.05 mole), potassium tert-butoxide (6.16 g, 0.055 mole), propargyl bromide (6.6 g, 0.055 mole) in dry DMF (60 mL) was heated and stirred at 110° C. for 5 h, after which the solvent was removed under high vacuum. Ethyl acetate was added, the inorganic salts were removed by filtration, and the organic extract was washed sequentially with water, 2 M NaOH, and saturated aqueous NaCl. The organic phase was dried overnight (Na2SO4) to give a crude product. MDPPE, a liquid product, was purified by silica gel chromatography using hexane-ethyl acetate (7:3) as the eluting solvent. Yield: 6.5 g (74%). 1H NMR (CDCl3): d 2.54 (t, 1H, CH), 4.61 (d, 2H, --OCH2 --), 5.92 (s, 2H, --OCH2O--), 6.38-6.73 (m, 3H, aromatics). GC-MS (m/z): M+· =176.

reactant | 5-(4-(9-Fluorenylmethyloxy carbonyl)-Aminomethyl-3,5-Dimethoxyphenoxy)-Valeric Acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)C1=C(C(=C(OCCCCC(=O)O)C=C1OC)CN)OC | C29H31NO7
reactant | 2,3,6-trichlorophenol | ClC1=C(C(=CC=C1Cl)Cl)O | C6H3Cl3O
reactant | methylenedioxyphenol | 0.05 mole | C1OC2=C(C=CC=C2O1)O | C7H6O3
reactant | potassium tert-butoxide | 0.055 mole, 6.16 g | CC(C)([O-])C.[K+]
reactant | propargyl bromide | 0.055 mole, 6.6 g | C(C#C)Br | C3H3Br
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 1,2,4-trichlorophenyl-3-(2-propynyloxy) benzene | ClC1(C(C=C(C=C1)Cl)Cl)C1=CC(=CC=C1)OCC#C | C15H11Cl3O
